US07608639B2
3-{4-[3-(4-Ethyl-2-phenoxy-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-ethyl-2-phenoxy-phenol as in Example 18 to afford 0.139 g (52%). 1H NMR (400 MHz, CDCl3); MS (ES−) m/z mass calculated for C30H27O5F 486, found 485 (M−1).

reactant | 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)Br)C)=O | C17H16BrFO3
reactant | 4-ethyl-2-phenoxy-phenol | C(C)C1=CC(=C(C=C1)O)OC1=CC=CC=C1 | C14H14O2
product | 3-{4-[3-(4-Ethyl-2-phenoxy-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid | C(C)C1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)F)C=C1)OC1=CC=CC=C1 | C30H27FO5
